US05137892
Step 5: 7-(3,3-Dimethoxypyrrolidin-1-yl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
Into an oven-dried glass flask flushed with dry N2, and containing 6 mL of dry pyridine were placed 0.116 g (0.88 mmol) of 3,3-dimethoxypyrrolidine, from Step 4, then 0.150 g (0.44 mmol) of 6,7-difluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-3-quinoline carboxylic acid (preparation described by H. Tone et al., Eur. Pat. Appl. EP 181521, May, 1986), and 180 mL (1.3 mmol) of triethylamine. This reaction solution was maintained under N2 and heated to 45° C. for 41 hours. The pyridine was then removed by azeotropic distillation with toluene, the residue triturated with water, the pH adjusted to pH 5 to 6 with acetic acid, and the solution filtered. The solid was washed with hot ethanol:water (3:1), which was refiltered and dried to afford the title compound, mp 228°-230° C.; MS(DCl) M/Z: 449 (M+H), 404 (M-COOH); NMR d 2.13 (dd, 2H, J=7.5 Hz), 3.41 (dd, 2H, J=1.5 Hz, J=7.5 Hz), 3.62 (d, 2H, J=3.6 Hz), 3.27 (s, 6H), 5.87 (d, 1H, J=7.5 Hz), 7.30 (m, 2H), 7.65 (m, 1H), 7.95 (d, 1H, J=13.5 Hz), 8.60 (s, 1H). Analysis calculated for C22H19F3N2O5 ·0.5 H2O: C, 59.77; H, 4.41; N, 6.12. Found: C, 58.28; H, 4.34; N, 6.21.

reactant | 3,3-dimethoxypyrrolidine | 0.88 mmol, 0.116 g | COC1(CNCC1)OC | C6H13NO2
reactant | 6,7-difluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-3-quinoline carboxylic acid | 0.44 mmol, 0.150 g | FC=1C=C2C(C(=CN(C2=CC1F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C16H7F4NO3
reactant | triethylamine | 1.3 mmol, 180 mL | C(C)N(CC)CC | C6H15N
product | 7-(3,3-Dimethoxypyrrolidin-1-yl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | COC1(CN(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F)OC | C22H19F3N2O5
